US07626021B2
5-Bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine (3.00 g, 9.26 mmol) was dissolved in N,N-dimethylforamide (150 ml) at 4° C. To the solution was added sodium hydride (60%, 519 mg, 12.98 mmol) in small portions. The flask was warmed to room temperature and stirred for 1 hour. To the mixture was added chloromethyl pivalate (2.29 ml, 15.78 mmol). The reaction mixture was stirred for 2 hours at room temperature, and quenched with methanol. Saturated ammonium chloride solution was added, and the mixture was concentrated in vacuo. The residue was dissolved in dichloromethane, and the organic layer was washed four times with. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in acetone. The solution was filtered and the solid material collected was discarded. The filtrate was concentrated in vacuo. The crude material was re-crystallized in ether to give 2.80 g (69%) of 2,2-dimethyl-propionic acid 5-bromo-3-iodo-pyrazolo[3,4-b]pyridin-1-ylmethyl ester. 1H-NMR (250 MHz, DMSO-d6) δ 8.63 (s, 1H), 8.20 (s, 1H), 6.43 (s, 2H), 1.14 (s, 9H); MS m/z 437.8, 439.8 (M+H+).

reactant | 5-Bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine | 9.26 mmol, 3.00 g | BrC=1C=C2C(=NC1)NN=C2I | C6H3BrIN3
reactant | sodium hydride | 12.98 mmol, 519 mg | [H-].[Na+]
reactant | chloromethyl pivalate | 15.78 mmol, 2.29 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylforamide | 150 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-propionic acid 5-bromo-3-iodo-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 2.80 g, 69% | BrC=1C=C2C(=NC1)N(N=C2I)COC(C(C)(C)C)=O | C12H13BrIN3O2
